US04510285
Butyl vinyl ether/Maleic anhydride/Maleimide Terpolymer Derivative
Polymer was synthesized substantially as in Example 2 except that the amount of maleic anhydride used was 11.0 g and the amount of maleimide used was 1.2 g.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
product | Butyl vinyl ether Maleic anhydride Maleimide | C(=C)OCCCC.C1(\C=C/C(=O)O1)=O.C1(C=CC(N1)=O)=O | InChI=1S/C6H12O.C4H3NO2.C4H2O3/c1-3-5-6-7-4-2;6-3-1-2-4(7)5-3;5-3-1-2-4(6)7-3/h4H,2-3,5-6H2,1H3;1-2H,(H,5,6,7);1-2H
